data/mechanism_extracts/OrgBiomolChem/10.1039_c8ob02485e.json
{"doi": "10.1039_c8ob02485e", "journal": "OrgBiomolChem", "is_review": false, "rxn_class_summary": "Electrochemical Co-catalyzed oxidative radical annulation of N-arylacrylamides with phenylhydrazines or potassium alkyltrifluoroborates to give 3,3-disubstituted oxindoles.", "mechanism_family": ["radical_anodic", "electrocatalysis_inner_sphere", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation generates phenyl or alkyl radicals from PhNHNH2 or R-BF3K with Co(II)/Co(III) redox mediation; cathodic reduction of protons gives H2.", "key_intermediates": [{"name": "phenyl or benzyl radical from anodic oxidation of PhNHNH2 or R-BF3K", "smiles": null, "role": "reactive"}, {"name": "Co(III)(OPiv)3 / Co(II)(OPiv)2 redox mediator", "smiles": null, "role": "reactive"}, {"name": "A1/A2: tertiary C-radical from addition of Ph/benzyl radical to acrylamide alkene", "smiles": null, "role": "transient"}, {"name": "B1/B2: cyclohexadienyl (aryl) radical after intramolecular ipso/ortho cyclization onto N-aryl ring", "smiles": null, "role": "transient"}, {"name": "C1/C2: cyclohexadienyl cation after anodic SET oxidation of B", "smiles": null, "role": "reactive"}, {"name": "molecular N2 and H2 byproducts", "smiles": "N#N", "role": "transient"}], "electron_flow": "Anode oxidizes Co(II) to Co(III), which oxidizes phenylhydrazine (losing N2 and H+) or R-BF3K to a carbon radical; this radical adds to the acrylamide alkene to give radical A, which cyclizes onto the N-aryl ring to give cyclohexadienyl radical B; B is oxidized at the anode (via Co(III)) to cation C, which loses H+ to give the oxindole, while protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO (TMEPO)", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace product formed with 1.5 equiv TEMPO in both PhNHNH2 and BnBF3K reactions, indicating radical intermediates."}], "evidence_types_used": ["intermediate_trap_TEMPO", "product_isotope_distribution", "other"], "evidence_strength": "medium", "notes": "Headspace GC analysis confirmed N2 + H2 byproducts for the phenylhydrazine route and H2 byproduct for the benzyltrifluoroborate route, supporting anodic oxidation/cathodic proton reduction. Co(OAc)2/NaOPiv act as an inner-sphere redox mediator (Co(II)/Co(III) cycle) at the anode."}
